*OPA830  Low-Power, Single-Supply, Wideband Operational Amplifier  
* REV. A - Created 7/03/06 X-ramus2@ti.com
*
*
* NOTES:
*   1- This macromodel predicts well: DC, small-signal AC, noise,
*      , and transient performance under a wide range
*      of conditions.
*   2- This macromodel does not predict well: distortion
*      (harmonic, intermod, diff. gain & phase, ...),
*      temperature effects, board parasitics, differences
*      between package styles, and process changes
*   3- For Spice3F4 users they might need to un-comment the lines for the F 
*      function and comment out the Lines for PSpice F functions
*      and subckts. First try the present netlist then comment out lines if 
*      errors appear.
*      General form:
*      FXXXXXXX N+ N- <POLY(ND)> VN1 <VN2 ...> P0 <P1 ...> <IC=...>
*      Examples:
*      F1 12 10 VCC 1MA 1.3M
*   4- For some simulators the subckt for the F statement need to be placed 
*      inside the ends statement followed by carriage return  
*   5- Known Problems: - Output current capability on +5V too low
*                                 - Most positive output voltage on +3V too low
*
* |-------------------------------------------------------------|
* |  This macro model is being supplied as an aid to            |
* |  circuit designs.  While it reflects reasonably close       |
* |  similarity to the actual device in terms of performance,   |
* |  it is not suggested as a replacement for breadboarding.    |
* |  Simulation should be used as a forerunner or a supplement  |
* |  to traditional lab testing.                                |
* |                                                             |
* |  Neither this library nor any part may be copied without    |
* |  the express written consent of Texas Instruments Corp.     |
* |-------------------------------------------------------------|
*
* CONNECTIONS:
*                                   Non-Inverting Input
*                                   |  Inverting Input
*                                   |  |  Disable
*                                   |  |  |    Output
*                                   |  |  |     |   Positive Supply
*                                   |  |  |     |   |    Negative Supply
*                                   |  |  |     |   |    |
*                                   |  |  |     |   |    |
*                                   |  |  |     |   |    |
*                                   |  |  |     |   |    |
.SUBCKT OPAx83x_Model + - Dis OUT V+ V- 

.PARAM coef=1
.PARAM x1=0.125
.PARAM x12={x1*12}
.PARAM x6={x1*6}
.PARAM x3={x1*3}
.PARAM x4={x1*4}
.PARAM x20={x1*20}
.PARAM x128={x1*128}
.PARAM x64={x1*64}
.PARAM x5={x1*5}
.PARAM Cout=2.5p
.PARAM Radj=1u

C_C4         $N_0001 Vmid  0.8p  
C_C2         Vmid Dis  2p  
V_V2         $N_0002 Vmid 1.838V
R_R6         $N_0003 Vmid  10k  
X_S3    $N_0004 0 $N_0005 $N_0002 OPAx83x_Model_S3 
D_D4         $N_0006 $N_0007 DX 
D_D5         $N_0008 $N_0009 DX 
Q_Q1         $N_0010 Vmid $N_0011 PNP8 {x12}
Q_Q2         $N_0010 Vmid $N_0012 NPN8 {x12}
Q_Q5         $N_0014 $N_0013 $N_0015 NPN8 {x12}
Q_Q6         $N_0014 $N_0013 $N_0016 PNP8 {x12}
R_R3         Vmid $N_0017  10k  
X_F14    $N_0018 $N_0019 $N_0013 $N_0020 OPAx83x_Model_F14 
C_C5         $N_0013 $N_0014  1p  
R_R21         $N_0013 $N_0001  400  
Q_Q12         $N_0018 $N_0021 $N_0022 PNP8 {x3}
D_D3         $N_0023 $N_0022 DX 
D_D2         $N_0024 $N_0025 DX 
Q_Q11         $N_0013 $N_0026 $N_0025 PNP8 {x3}
C_C6         $N_0010 Vmid  1p  
Q_Q3         $N_0027 $N_0016 $N_0014 NPN8 {x6}
Q_Q9         $N_0028 $N_0016 $N_0014 NPN8 {x6}
Q_Q10         $N_0029 $N_0015 $N_0014 PNP8 {x6}
Q_Q4         $N_0030 $N_0015 $N_0014 PNP8 {x6}
Q_Q7         $N_0031 $N_0011 $N_0010 NPN8 {x12}
C_C11         $N_0032 OUT  {Cout}  
Q_Q23         OUT $N_0032 $N_0033 NPN8 {x64}
Q_Q24         OUT $N_0032 $N_0034 NPN8 {x64}
Q_Q22         OUT $N_0031 $N_0035 PNP8 {x128}
C_C10         $N_0031 OUT  {Cout}  
Q_Q21         $N_0031 $N_0036 $N_0037 PNP8 {x5}
R_R42         $N_0027 $N_0036  300  
D_D8         $N_0036 $N_0027 DX 
Q_Q8         $N_0032 $N_0012 $N_0010 PNP8 {x20}
Q_Q29         $N_0032 $N_0029 V- NPN8 {x5}
R_R45         V- $N_0038  {Radj}  
R_R25         V- $N_0019  200  
X_F2    $N_0039 $N_0040 $N_0041 V- OPAx83x_Model_F2 
X_F3    $N_0040 $N_0042 $N_0021 V- OPAx83x_Model_F3 
X_F6    $N_0043 $N_0044 $N_0015 V- OPAx83x_Model_F6 
R_R22         V- $N_0020  200  
X_F5    $N_0045 $N_0043 $N_0026 V- OPAx83x_Model_F5 
X_F7    $N_0044 V- $N_0012 V- OPAx83x_Model_F7 
Q_Q28         $N_0029 $N_0029 V- NPN8 {x5}
D_D11         $N_0030 $N_0046 DX 
R_R43         $N_0046 $N_0030  300  
Q_Q25         $N_0032 $N_0046 $N_0038 NPN8 {x5}
R_R50         $N_0032 $N_0046  350  
R_R49         $N_0031 $N_0036  350  
D_D25         0 $N_0047 DN3 .25
D_D24         $N_0048 0 DN3 .25
I_I24         $N_0047 $N_0048 DC 0.001fA  
D_D26         $N_0049 0 DN3 .25
D_D27         0 $N_0050 DN3 .25
I_I25         $N_0050 $N_0049 DC 0.001fA  
X_F4    $N_0042 $N_0045 $N_0051 V- OPAx83x_Model_F4 
X_F9    V+ $N_0052 V+ $N_0011 OPAx83x_Model_F9 
R_R13         Dis V+  41k  
E_ABM21         $N_0004 0 VALUE { ( V(Dis)  
+ / (V(V+)   
+ + 1e-6) ) * 5.0  }
X_F1    $N_0005 $N_0003 V+ $N_0039 OPAx83x_Model_F1 
R_R27         $N_0022 V+  650  
R_R26         $N_0023 V+  60  
R_R31         $N_0008 V+  20  
X_F8    $N_0052 $N_0041 V+ $N_0016 OPAx83x_Model_F8 
R_R23         $N_0024 V+  60  
R_R24         $N_0025 V+  650  
Q_Q14         V+ $N_0009 $N_0026 NPN8 {x6}
R_R30         $N_0009 V+  950  
R_R29         $N_0006 V+  20  
R_R28         $N_0007 V+  950  
C_C7         $N_0022 V+  0.1p  
C_C8         $N_0025 V+  0.1p  
Q_Q27         $N_0028 $N_0028 V+ PNP8 {x6}
R_R44         $N_0037 V+  {Radj}  
Q_Q26         $N_0031 $N_0028 V+ PNP8 {x6}
R_R4         V+ V-  123.609k  
E_E2         $N_0017 V- V+ V- 0.5
Q_Q13         V+ $N_0007 $N_0021 NPN8 {x6}
R_R53         $N_0053 V+  10k  
Q_Q33         $N_0054 $N_0054 $N_0053 PNP8 {x1}
Q_Q30         $N_0051 $N_0054 $N_0055 PNP8 {x3}
Q_Q34         V- $N_0051 $N_0054 PNP8 {x1}
Q_Q16         $N_0056 $N_0056 $N_0057 NPN8 {x4}
Q_Q17         $N_0007 $N_0056 $N_0058 NPN8 {x4}
Q_Q31         $N_0056 $N_0054 $N_0059 PNP8 {x6}
Q_Q19         $N_0060 $N_0060 $N_0061 NPN8 {x4}
Q_Q18         $N_0009 $N_0060 $N_0062 NPN8 {x4}
Q_Q32         $N_0060 $N_0054 $N_0063 PNP8 {x6}
Q_Q20         V- $N_0064 $N_0065 PNP8 {x12*coef}
Q_Q15         V- $N_0066 $N_0067 PNP8 {x12*coef}
R_R20         OUT $N_0068  60  
R_R51         - $N_0066  50  
D_D28         $N_0069 0 DN3 .25
D_D29         0 $N_0070 DN3 .25
I_I26         $N_0070 $N_0069 DC 0.001fA  
I_I27         $N_0071 $N_0072 DC 0.001fA  
D_D30         $N_0072 0 DN3 .25
D_D31         0 $N_0071 DN3 .25
R_R52         + $N_0064  50  
R_R37         $N_0062 $N_0065  520  
R_R38         $N_0067 $N_0058  520  
R_R32         $N_0055 V+  250  
G_G14         + 0 POLY(2) $N_0072 0 $N_0071 0 0 0 9u
G_G13         - 0 POLY(2) $N_0069 0 $N_0070 0 0 0 9u
R_R36         $N_0065 $N_0057  20  
R_R35         $N_0067 $N_0061  20  
C_C3         $N_0068 $N_0013  1.95p  
G_G12         $N_0067 0 POLY(2) $N_0049 0 $N_0050 0 0 0 108u
G_G11         $N_0065 0 POLY(2) $N_0048 0 $N_0047 0 0 0 108u
R_R17         $N_0014 $N_0010  70  
R_R33         $N_0059 V+  225  
R_R34         $N_0063 V+  225  
R_R39         V- $N_0033  2  
R_R41         V- $N_0034  2  
R_R40         $N_0035 V+  0.5  
R_R56         Vmid Dis  100MEG  

.MODEL DX D
+ IS=1.0000E-15  

.MODEL DN3 D( IS=.1F AF=1.0 KF=39.0E-17)


.MODEL NPN8 NPN
+ IS = 7.604E-18 BF = 1.570E+02 NF = 1.000E+00 VAF= 7.871E+01
+ IKF= 3.975E-02 ISE= 3.219E-14 NE = 2.000E+00 BR = 7.614E-01
+ NR = 1.000E+00 VAR= 1.452E+00 IKR= 8.172E-02 ISC= 7.618E-21
+ NC = 1.847E+00 RB = 1.060E+02 IRB= 0.000E+00 RBM= 2.400E+00
+ RE = 2.520E+00 RC = 1.270E+02 CJE= 1.120E-13 VJE= 7.591E-01
+ MJE= 5.406E-01 TF = 1.213E-11 XTF= 2.049E+00 VTF= 1.813E+00
+ ITF= 4.293E-02 PTF= 0.000E+00 CJC= 8.208E-14 VJC= 6.666E-01
+ MJC= 4.509E-01 XCJC=8.450E-02 TR = 4.000E-11 CJS= 1.160E-13
+ VJS= 5.286E-01 MJS= 4.389E-01 XTB= 1.022E+00 EG = 1.120E+00
+ XTI= 1.780E+00 KF = 3.500E-16 AF = 1.000E+00 FC = 8.273E-01




.MODEL PNP8 PNP
+ IS = 7.999E-18 BF = 1.418E+02 NF = 1.000E+00 VAF= 4.158E+01
+ IKF= 1.085E-01 ISE= 2.233E-15 NE = 1.505E+00 BR = 3.252E+01
+ NR = 1.050E+00 VAR= 1.093E+00 IKR= 5.000E-05 ISC= 6.621E-16
+ NC = 1.150E+00 RB = 6.246E+01 IRB= 0.000E+00 RBM= 2.240E+00
+ RE = 2.537E+00 RC = 1.260E+02 CJE= 9.502E-14 VJE= 7.320E-01
+ MJE= 4.930E-01 TF = 1.303E-11 XTF= 3.500E+01 VTF= 3.259E+00
+ ITF= 2.639E-01 PTF= 0.000E+00 CJC= 1.080E-13 VJC= 7.743E-01
+ MJC= 5.000E-01 XCJC=8.504E-02 TR = 1.500E-10 CJS= 1.290E-13
+ VJS= 9.058E-01 MJS= 4.931E-01 XTB= 1.732E+00 EG = 1.120E+00
+ XTI= 2.000E+00 KF = 3.500E-16 AF = 1.000E+00 FC = 8.500E-01


.ENDS    OPAx83x_Model

.subckt OPAx83x_Model_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e12 Ron=0.001 Voff=3.0 Von=4.5
.ends OPAx83x_Model_S3

.subckt OPAx83x_Model_F14 1 2 3 4  
F_F14         3 4 VF_F14 0.976983046653
VF_F14         1 2 0V
.ends OPAx83x_Model_F14

.subckt OPAx83x_Model_F2 1 2 3 4  
F_F2         3 4 VF_F2 0.4982851544336
VF_F2         1 2 0V
.ends OPAx83x_Model_F2

.subckt OPAx83x_Model_F3 1 2 3 4  
F_F3         3 4 VF_F3 0.68887800098
VF_F3         1 2 0V
.ends OPAx83x_Model_F3

.subckt OPAx83x_Model_F6 1 2 3 4  
F_F6         3 4 VF_F6 1.06026457619
VF_F6         1 2 0V
.ends OPAx83x_Model_F6

.subckt OPAx83x_Model_F5 1 2 3 4  
F_F5         3 4 VF_F5 0.689857912788
VF_F5         1 2 0V
.ends OPAx83x_Model_F5

.subckt OPAx83x_Model_F7 1 2 3 4  
F_F7         3 4 VF_F7 1.06026457619
VF_F7         1 2 0V
.ends OPAx83x_Model_F7

.subckt OPAx83x_Model_F4 1 2 3 4  
F_F4         3 4 VF_F4 0.512003919647
VF_F4         1 2 0V
.ends OPAx83x_Model_F4

.subckt OPAx83x_Model_F9 1 2 3 4  
F_F9         3 4 VF_F9 2.12782694199
VF_F9         1 2 0V
.ends OPAx83x_Model_F9

.subckt OPAx83x_Model_F1 1 2 3 4  
F_F1         3 4 VF_F1 1.11044613711
VF_F1         1 2 0V
.ends OPAx83x_Model_F1

.subckt OPAx83x_Model_F8 1 2 3 4  
F_F8         3 4 VF_F8 2.12782694199
VF_F8         1 2 0V
.ends OPAx83x_Model_F8
